US07465731B2
To a solution of ethyl (2E)-3-(6-{(tert-butoxycarbonyl)[(3R)-1-butyl-3-pyrrolidinyl]amino}-3-pyridinyl)acrylate (308 mg) in dioxane (7.4 mL) was added 1N sodium hydroxide (2.21 mL). After stirring at 60° C. for 2 hours, the reaction mixture was added H2O (37 mL) and acidified with 1N hydrochloric acid (to pH 1). A resulting mixture was extracted with CHCl3, and the organic layer was dried over MgSO4, filtered, and evaporated in vacuo to give (2E)-3-(6-{(tert-butoxycarbonyl)[(3R)-1-butyl-3-pyrrolidinyl]amino}-3-pyridinyl)acrylic acid dihydrochloride (214 mg).

reactant | ethyl (2E)-3-(6-{(tert-butoxycarbonyl)[(3R)-1-butyl-3-pyrrolidinyl]amino}-3-pyridinyl)acrylate | 308 mg | C(C)(C)(C)OC(=O)N(C1=CC=C(C=N1)/C=C/C(=O)OCC)[C@H]1CN(CC1)CCCC | C23H35N3O4
reactant | sodium hydroxide | 1N, 2.21 mL | [OH-].[Na+]
reactant | H2O | 37 mL | O | H2O
reactant | hydrochloric acid | 1N, pH 1 | Cl | ClH
solvent | dioxane | 7.4 mL | O1CCOCC1 | C4H8O2
product | (2E)-3-(6-{(tert-butoxycarbonyl)[(3R)-1-butyl-3-pyrrolidinyl]amino}-3-pyridinyl)acrylic acid dihydrochloride | 214 mg | Cl.Cl.C(C)(C)(C)OC(=O)N(C1=CC=C(C=N1)/C=C/C(=O)O)[C@H]1CN(CC1)CCCC | InChI=1S/C21H31N3O4.2ClH/c1-5-6-12-23-13-11-17(15-23)24(20(27)28-21(2,3)4)18-9-7-16(14-22-18)8-10-19(25)26;;/h7-10,14,17H,5-6,11-13,15H2,1-4H3,(H,25,26);2*1H/b10-8+;;/t17-;;/m1../s1
